US07863271B2
A mixture of methyl 2-chlorobenzoxazole-4-carboxylate (342 mg, 1.62 mmol), (3S,5S)-1,3,5-trimethylpiperazin-2-one (230 mg, 1.62 mmol) and potassium carbonate (670 mg, 4.85 mmol), in DMF (10 mL), was stirred at ambient temperature for 16 h. The reaction mixture was diluted with H2O (20 mL) and extracted with EtOAc (2×40 mL). The combined organic layers were washed with 0.5 N HCl (10 mL), H2O (10 mL), brine (10 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was triturated with diethyl ether and the solids were removed by filtration. The filtrate was concentrated and purified by column chromatography (silica gel, 10% CH2Cl2 in EtOAc to 100% EtOAc) to give methyl 2-((2S,6S)-2,4,6-trimethyl-3-oxopiperazine-1-yl)benzoxazole-4-carboxylate (98 mg, 19%): 1H NMR consistent.

reactant | methyl 2-chlorobenzoxazole-4-carboxylate | 1.62 mmol, 342 mg | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
reactant | (3S,5S)-1,3,5-trimethylpiperazin-2-one | 1.62 mmol, 230 mg | CN1C([C@@H](N[C@H](C1)C)C)=O | C7H14N2O
reactant | potassium carbonate | 4.85 mmol, 670 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 20 mL | O | H2O
product | methyl 2-((2S,6S)-2,4,6-trimethyl-3-oxopiperazine-1-yl)benzoxazole-4-carboxylate | 98 mg, 19% | C[C@@H]1N([C@H](CN(C1=O)C)C)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C16H19N3O4
